US04210440
Production of Active Compounds (No. 3), N-(4-chlorophenyl)-N'-methyl-N'-(2-nitrophenylthio) urea
N-4-chlorophenyl-N'-methyl urea (4.1 g) was dissolved in a mixture of dimethylformamide (20 ml) and pyridine (5 ml) and then 2-nitrophenylthiochloride (4.17 g) was added to and dissolved in the solution. After allowing the solution to stand overnight, it was poured into 200 ml of ice-water. The initial product was an oily product which solidified after a while. The solid product was separated by filtration, washed with water and dried. Recrystallization from a mixture of ethyl acetate and n-hexane gave 4.3 g of the object compound. (m.p.: 157°-158° C.)

reactant | N-4-chlorophenyl-N'-methyl urea | 4.1 g | ClC1=CC=C(C=C1)NC(=O)NC | C8H9ClN2O
reactant | 2-nitrophenylthiochloride | 4.17 g | [N+](=O)([O-])C1=C(C=CC=C1)SCl | C6H4ClNO2S
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | N-(4-chlorophenyl)-N'-methyl-N'-(2-nitrophenylthio) urea | 4.3 g | ClC1=CC=C(C=C1)NC(=O)N(SC1=C(C=CC=C1)[N+](=O)[O-])C | C14H12ClN3O3S
